US04556670
Sodium cyanide (1.47 g, 30 mmol) was combined with 100 ml N,N-dimethylformamide and then stirred at 35° C. for 1 hour under nitrogen to give a clear solution. To this solution was added dropwise over 1 hour 34.0 ml (0.3 mol) of 3-chlorobenzaldehyde dissolved in 50 ml N,N-dimethylformamide. After stirring an additional 1 hour at 35° C. a solution of 25.0 ml (0.3 mol) methacrylonitrile in 50 ml N,N-dimethylformamide was added dropwise over 2 hours and the reaction mixture was stirred at 25° C. for 16 hours. Methylene chloride (200 ml) and 4.0 g diatomaceous earth filter aid was added and the mixture was slurried and filtered. The filtrate was washed consecutively with 500 ml 0.22N hydrochloric acid, two 200 ml portions water, 200 ml 2.5% sodium bicarbonate aqueous solution, 200 ml 1N hydrochloric acid, 200 ml water and 200 ml brine. The methylene chloride layer was dried over anhydrous sodium sulfate and concentrated in vacuo to give 49.65 g of crude 3-(m-chlorobenzoyl)-2-methylpropionitrile as a yellow solid; mp: partial melt at 50° C., melt at 79°-81° C. 15.57 g (0.075 mol) of this product was combined with 25 ml concentrated hydrochloric acid and 25 ml formic acid and heated at reflux for 2.5 hours. After cooling, 150 ml water was added and the aqueous solution was extracted with two 150 ml portions ethyl acetate. The ethyl acetate extract in turn was extracted with two 150 ml portions 20% sodium hydroxide in water. The aqueous extract was acidified with concentrated hydrochloric acid to precipitate a solid which was collected by filtration, washed with water and dried to give 10.86 g 3-(m-chlorobenzoyl)-2-methylpropionic acid: mp 100°-102° C.

reactant | Sodium cyanide | 30 mmol, 1.47 g | [C-]#N.[Na+]
reactant | 3-chlorobenzaldehyde | 0.3 mol, 34.0 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | methacrylonitrile | 0.3 mol, 25.0 ml | C(C(=C)C)#N | C4H5N
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-(m-chlorobenzoyl)-2-methylpropionitrile | 49.65 g | ClC=1C=C(C(=O)CC(C#N)C)C=CC1 | C11H10ClNO
